US09126998B2
tert-Butyl {2-[(2-methoxyethyl)amino]ethyl}carbamate
1.57 g of tert-butyl (2-bromoethyl)carbamate (7.0 mmol, 0.7 equivalents) were initially charged in 98.5 ml of acetonitrile, 0.87 ml of 2-methoxyethylamine (750 mg, 10.0 mmol, 1 equivalent) and 3.5 ml of N,N-diisopropylethylamine (2.58 g, 20 mmol, 2 equivalents) were added and the mixture was stirred at 80° C. overnight. The mixture was concentrated and the residue was purified on a silica gel column (mobile phase: dichloromethane/methanol gradient: from 50:1 to 30:1 to 10:1, then dichloromethane/2 N ammonia in methanol: 10:1). This gave 1.69 g (99% of theory; purity about 90%) of the title compound.

reactant | tert-butyl (2-bromoethyl)carbamate | 7.0 mmol, 1.57 g, 0.7 equivalents | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
reactant | 2-methoxyethylamine | 10.0 mmol, 0.87 ml, 750 mg, 1 equivalent | COCCN | C3H9NO
reactant | N,N-diisopropylethylamine | 20 mmol, 3.5 ml, 2.58 g, 2 equivalents | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 98.5 ml | C(C)#N | C2H3N
product | tert-Butyl {2-[(2-methoxyethyl)amino]ethyl}carbamate | COCCNCCNC(OC(C)(C)C)=O | C10H22N2O3
